US07858619B2
19B: 4-(4-Fluorophenoxy)-N-[2-(2-hydroxyphenyl)ethyl]benzenesulfonamide;
620 mg (1.54 mmol) of 4-(4-fluorophenoxy)-N-[2-(2-methoxyphenyl)ethyl]benzene-sulfonamide are dissolved in 10 ml of dichloromethane and, at −40° C., 3.09 ml (3.09 mmol) of a 1 M solution of boron tribromide in dichloromethane are added. The solution is warmed to room temperature and stirred for a further four hours. It is subsequently added to water, the phases are separated, and the organic phase is washed twice more with H2O. The dichloromethane phase is dried with MgSO4 and concentrated, allowing the desired phenol to be isolated as a brown oil. Crude yield 89%.

reactant | 4-(4-fluorophenoxy)-N-[2-(2-methoxyphenyl)ethyl]benzene-sulfonamide | 1.54 mmol, 620 mg | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)NCCC2=C(C=CC=C2)OC)C=C1 | C21H20FNO4S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(4-Fluorophenoxy)-N-[2-(2-hydroxyphenyl)ethyl]benzenesulfonamide | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)NCCC2=C(C=CC=C2)O)C=C1 | C20H18FNO4S
